US06620921B1
In a typical reaction of the process of the invention, glucose is treated with 2 or more mole equivalents of boric acid in propanoic acid. The reaction mixture is stirred at approximately 70° C. for approximately one hour. Propanoic anhydride, optionally together with sulfuric acid, is added and the reaction is maintained at approximately 70° C. while stirring for a time sufficient to give 1,2.3,5,6-penta-O-propanoyl-β-D-glucofuranose.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | boric acid | B(O)(O)O | BH3O3
reactant | Propanoic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | propanoic acid | C(CC)(=O)O | C3H6O2
product | 1,2.3,5,6-penta-O-propanoyl-β-D-glucofuranose | C(CC)(=O)O[C@H]1[C@H](OC(CC)=O)[C@@H](OC(CC)=O)[C@H](O1)[C@H](OC(CC)=O)COC(CC)=O | C21H32O11
